US07511144B2
To a solution of 2.9 g (18.9 mmol) of 1-chloromethyl-3,5-dimethylbenzene and 3.9 g (22.7 mmol) of 4-methylsulfonylphenol in ethanol (10 mL) was added 10 mL (20.0 mmol) of 2 N aqueous sodium hydroxide solution, followed by heating under reflux for 2 hours. After standing to cool, water was added and the precipitates were collected by filtration and dried under a reduced pressure to obtain 4.1 g (yield 75.3%) of 1-(4-methanesulfonylphenoxymethyl)-3,5-dimethylbenzene (VI-5). Its physical properties are shown below.

reactant | 1-chloromethyl-3,5-dimethylbenzene | 18.9 mmol, 2.9 g | ClCC1=CC(=CC(=C1)C)C | C9H11Cl
reactant | 4-methylsulfonylphenol | 22.7 mmol, 3.9 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | sodium hydroxide | 20.0 mmol, 2 N, 10 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(4-methanesulfonylphenoxymethyl)-3,5-dimethylbenzene | 4.1 g, yield 75.3% | CS(=O)(=O)C1=CC=C(OCC2=CC(=CC(=C2)C)C)C=C1 | C16H18O3S
